US07087576B2
Preparation of 5-[4-(4-(2-(2-amino-3-imidazol-4-ylpropanamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione dihydrochloride (Compound A)
A solution of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione hydrochloride (6 g, 13.7 mmol) and 2-N-t-butoxy-carbonylamino-4-imidazole propionic acid (5.2 g, 20.3 mmol) in N,N-dimethylformamide (200 ml) was stirred for 1 h at −10° C. N,N′-Dicyclohexylcarbodiimide (4.5 g, 21.8 mmol) was added to this solution and stirring was continued for 12 h at ambient temperature. Water (1800 ml) was added to the reaction mixture, stirred for 20 minutes and extracted with ethyl acetate (3×400 ml). Ethyl acetate extract was washed with water (300 ml), dried over anhydrous sodium sulfate and concentrated to furnish the title compound, which was purified by column chromatography (3.4 g, yield 51%).

reactant | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione hydrochloride | 13.7 mmol, 6 g | Cl.NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC
reactant | N,N′-Dicyclohexylcarbodiimide | 21.8 mmol, 4.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 1800 ml | O | H2O
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-[4-(4-(2-(2-amino-3-imidazol-4-ylpropanamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione dihydrochloride | yield 51% | Cl.Cl.NC(C(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC)CC=1N=CNC1 | InChI=1S/C26H27N5O6S.2ClH/c1-36-25(34)21(30-23(32)20(27)12-17-13-28-14-29-17)10-15-2-6-18(7-3-15)37-19-8-4-16(5-9-19)11-22-24(33)31-26(35)38-22;;/h2-9,13-14,20-22H,10-12,27H2,1H3,(H,28,29)(H,30,32)(H,31,33,35);2*1H
